US06734302B2
Phosgene (0.147 mL, 0.283 mmol, 1.93 M in toluene) was added to a stirred solution of 4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-6-methoxy-phenyl)-4,5-dihydro-1H-imidazole (described in previous patent) (25 mg, 0.0566 mmol) and triethylamine (39 μL, 0.283 mmol) in THF (2 mL) at 0° C. over a period of 5 min. The mixture was stirred for 3 h and evaporated. The residue was dissolved in methylene chloride (2 mL) and added dropwise to a stirred solution of piperazine (24 mg, 0.283 mmol) in methylene chloride (2 mL) at room temperature for 3 h. The mixture was diluted with aqueous sodium bicarbonate and extracted with methylene chloride. The organic extracts were washed with brine and dried over sodium sulfate. Evaporation of the solvents and chromatography of the residue over silica gel using 0-10% methanol in methylene chloride gave [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-6-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone (19 mg, 61%). HR-MS (ES, m/z) calculated for C29H31N4O3Cl2[(M+H)+]553.1768, observed 553.1770.

reactant | Phosgene | 0.283 mmol, 1.93 M, 0.147 mL | C(=O)(Cl)Cl | CCl2O
reactant | 4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-6-methoxy-phenyl)-4,5-dihydro-1H-imidazole | 0.0566 mmol, 25 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1OC)OCC | C24H22Cl2N2O2
reactant | triethylamine | 0.283 mmol, 39 μL | C(C)N(CC)CC | C6H15N
reactant | piperazine | 0.283 mmol, 24 mg | N1CCNCC1 | C4H10N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-6-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone | 19 mg, 61% | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=CC=C1OC)OCC | C29H30Cl2N4O3
